US08609731B2
N-{(S)-6-[(R)-1-(4-Methylpiperidin-1-yl)ethyl]-1,2,3,4-tetrahydronaphthalen-2-yl}-4-[(S)-1-(tetrahydrofuran-2-yl)methoxy]benzamide
A mixture of N-[(S)-6-((R)-1-aminoethyl)-1,2,3,4-tetrahydronaphthalen-2-yl]-4-[(S)-1-(tetrahydrofuran-2-yl)methoxy]benzamide (50 mg), 1,5-dibromo-3-methylpentane (31 mg), ethyldiisopropylamine (0.10 ml) and acetonitrile (1 ml) was heated to 40° C. for 8 hours. The cooled reaction mixture was concentrated and the residue was purified by preparative HPLC. The product was thus obtained with the molecular weight of 476.66 (C30H40N2O3); MS (ESI): 477 (M+H+).

reactant | N-[(S)-6-((R)-1-aminoethyl)-1,2,3,4-tetrahydronaphthalen-2-yl]-4-[(S)-1-(tetrahydrofuran-2-yl)methoxy]benzamide | 50 mg | N[C@H](C)C=1C=C2CC[C@@H](CC2=CC1)NC(C1=CC=C(C=C1)OC[C@H]1OCCC1)=O | C24H30N2O3
reactant | 1,5-dibromo-3-methylpentane | 31 mg | BrCCC(CCBr)C | C6H12Br2
reactant | ethyldiisopropylamine | 0.10 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
product | N-{(S)-6-[(R)-1-(4-Methylpiperidin-1-yl)ethyl]-1,2,3,4-tetrahydronaphthalen-2-yl}-4-[(S)-1-(tetrahydrofuran-2-yl)methoxy]benzamide | CC1CCN(CC1)[C@H](C)C=1C=C2CC[C@@H](CC2=CC1)NC(C1=CC=C(C=C1)OC[C@H]1OCCC1)=O | C30H40N2O3
